US05481038
N,N-Diisopropylmethallylamine
A mixture of diisopropylamine (20.24 g, 0.2 mol), methallyl chloride (9.00 g, 0.1 mol), adiponitrile (10.81 g, 0.1 mol) and tetrabutylammonium iodide (3.69 g, 10 mmol) was refluxed for 5 h with vigorous stirring (two phases). The temperature of the mixture increased from 88° to 125° C. Potassium hydroxide solution (5M, 15 ml, 0.15 mol) was added. Three layers formed. The mixture was extracted with n-pentane (2×50 ml). Adiponitrile (the middle layer) was recovered. The pentane solution was dried with anhydrous magnesium sulfate and the product was isolated by distillation: 12.58 g (81%), bp 75-77° C/45 mm Hg. 1H NMR CDCl3 δ ppm, 0.98 (d, J=6.6 Hz, 12H, CH3), 1.70 (s, 3H, CH3), 2.97 (m, 4H, CH2, CH), 4.78 (s, 1H,=CH2), 4.93 (m, 1H,=CH2) .

reactant | diisopropylamine | 0.2 mol, 20.24 g | C(C)(C)NC(C)C | C6H15N
reactant | methallyl chloride | 0.1 mol, 9.00 g | C(C(C)=C)Cl | C4H7Cl
reactant | adiponitrile | 0.1 mol, 10.81 g | C(CCCCC#N)#N | C6H8N2
reactant | Potassium hydroxide | 0.15 mol, 5M, 15 ml | [OH-].[K+]
catalyst | tetrabutylammonium iodide | 10 mmol, 3.69 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N,N-Diisopropylmethallylamine | C(C)(C)N(C(C)C)CC(C)=C | C10H21N
